US07557111B2
A mixture of 7-(4-bromo-2,6-dimethyl-phenyl)-4-chloro-2,6-dimethyl-thieno[3,2-d]pyrimidine (500 mg), piperidin-4-ylmethanol (226 mg), N,N-diisopropylethylamine (253 mg) in ethanol (1.5 mL) was heated at reflux for 1 day. The reaction mixture was cooled to room temperature, poured into a saturated aqueous sodium hydrogencarbonate, and then extracted with EtOAc. The organic layer washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/EtOAc=3:1) to obtain {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol as a white solid (568 mg).

reactant | 7-(4-bromo-2,6-dimethyl-phenyl)-4-chloro-2,6-dimethyl-thieno[3,2-d]pyrimidine | 500 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2Cl)C)C)C | C16H14BrClN2S
reactant | piperidin-4-ylmethanol | 226 mg | N1CCC(CC1)CO | C6H13NO
reactant | N,N-diisopropylethylamine | 253 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol | 568 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | C22H26BrN3OS
